US07618961B2
Ethyl {2-[(8-quinolinylsulfonyl)amino]-1,3-thiazol-4-yl}acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 8-quinolinesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (9.2 mg) with purity >80%. LCMS (pos) m/z 378.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 8-quinolinesulfonyl chloride | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | Ethyl {2-[(8-quinolinylsulfonyl)amino]-1,3-thiazol-4-yl}acetate | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C16H15N3O4S2
